US04517195
1-Amino-2-(2-chlorobenzoyl)-5-methylpyrrole
A suspension of 2-(2-chlorobenzoyl)-5-methyl-1-phthalimidopyrrole (48 g, 0.13 mol) in 200 ml of 95% ethanol was treated with 80 ml of 40% aqueous solution of methylamine and stirred at room temperature for 6 hours. The reaction was quenched with 1.5 liter of H2O and extracted with three 400 ml portions of ether. The combined ether extracts were washed with H2O, dried (MgSO4), filtered, and evaporated to an oil. This oil crystallized from hexane to give 22.7 g (74%) of cubes, m.p. 84°-85°.

reactant | 2-(2-chlorobenzoyl)-5-methyl-1-phthalimidopyrrole | 0.13 mol, 48 g | ClC1=C(C(=O)C=2N(C(=CC2)C)N2C(C=3C(C2=O)=CC=CC3)=O)C=CC=C1 | C20H13ClN2O3
reactant | methylamine | CN | CH5N
solvent | ethanol | 200 ml | C(C)O | C2H6O
product | 1-Amino-2-(2-chlorobenzoyl)-5-methylpyrrole | NN1C(=CC=C1C)C(C1=C(C=CC=C1)Cl)=O | C12H11ClN2O
